US08377938B2
Example 1-1)N-(2-Fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrochloride
After suspending N-(2-fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide (63.4 mg) in acetone (0.634 ml), 5N hydrochloric acid (0.020 ml) and water (0.0117 ml) were added at room temperature to form a solution. The solution was stirred overnight at room temperature. The precipitate was collected by filtration and washed with acetone (0.317 ml, 2 times). It was then dried under aeration at room temperature for 30 minutes, and then dried with warm air at 60° C. for 1 day to give the title compound (43.3 mg) as white powder.

reactant | N-(2-fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide | 63.4 mg | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | C35H41F2N7O4
reactant | hydrochloric acid | 5N, 0.020 ml | Cl | ClH
solvent | acetone | 0.634 ml | CC(=O)C | C3H6O
solvent | water | 0.0117 ml | O | H2O
product | N-(2-Fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrochloride | 43.3 mg | Cl.FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | InChI=1S/C35H41F2N7O4.ClH/c1-42-16-18-43(19-17-42)26-9-14-44(15-10-26)34(47)41-31-21-28(8-13-38-31)48-27-6-7-30(29(37)20-27)40-33(46)23-35(11-12-35)22-32(45)39-25-4-2-24(36)3-5-25;/h2-8,13,20-21,26H,9-12,14-19,22-23H2,1H3,(H,39,45)(H,40,46)(H,38,41,47);1H
